US07576107B2
Potassium carbonate (6.6 g, 47.5 mmol) was added to a solution of 5-amino-1-(2,6-dichloro-4-trifluoromethylphenyl)3-cyano-4-trifluoromethylthiopyrazole (5.0 g, 11.87 mmol) in iso-propanol, and stirred for five minutes before paraformaldehyde (0.75 g) was added. The resulting mixture was stirred at 20C for three days, then diluted with isopropanol (20 ml) and added to water and ethyl acetate. The organic layer was dried (sodium sulfate) and evaporated to give 1-(2,6-dichloro-4-trifluoromethylphenyl-3-cyano-5-1-propyloxymethylamino-4-trifluoromethylthiopyrazole (Compound number 14, 5.3 g).

reactant | Potassium carbonate | 47.5 mmol, 6.6 g | C([O-])([O-])=O.[K+].[K+]
reactant | 5-amino-1-(2,6-dichloro-4-trifluoromethylphenyl)3-cyano-4-trifluoromethylthiopyrazole | 11.87 mmol, 5.0 g | NC1=C(C(=NN1C1=C(C=C(C=C1Cl)C(F)(F)F)Cl)C#N)SC(F)(F)F | C12H4Cl2F6N4S
reactant | paraformaldehyde | 0.75 g | C=O | CH2O
reactant | water | O | H2O
reactant | iso-propanol | C(C)(C)O | C3H8O
reactant | isopropanol | 20 ml | C(C)(C)O | C3H8O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 2,6-dichloro-4-trifluoromethylphenyl-3-cyano-5-1-propyloxymethylamino-4-trifluoromethylthiopyrazole | 5.3 g | ClC1=C(C(=CC(=C1)C(F)(F)F)Cl)N1N=C(C(=C1NCOCCC)SC(F)(F)F)C#N | C16H12Cl2F6N4OS
